US07776869B2
To a solution of 1-isocyanato-4-nitro-2-(trifluoromethyl)benzene (339 μL, 2.21 mmol, 1.0 equiv) in benzene (3.0 mL), was added 2-morpholinoethanamine (316 mg, 2.43 mmol, 1.0 equiv). The resulting precipitant was filtered and washed with hexanes to provide 1-(2-morpholinoethyl)-3-(4-nitro-2-(trifluoromethyl)phenyl)urea, which was advanced without further purification. MS (MH+) 363; Calculated for C14H17F3N4O4: 362.1

reactant | 1-isocyanato-4-nitro-2-(trifluoromethyl)benzene | 2.21 mmol, 339 μL, 1.0 equiv | N(=C=O)C1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H3F3N2O3
reactant | 2-morpholinoethanamine | 2.43 mmol, 316 mg, 1.0 equiv | O1CCN(CC1)CCN | C6H14N2O
solvent | benzene | 3.0 mL | C1=CC=CC=C1 | C6H6
product | 1-(2-morpholinoethyl)-3-(4-nitro-2-(trifluoromethyl)phenyl)urea | O1CCN(CC1)CCNC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C14H17F3N4O4
